US04007194
To a solution consisting of 40 parts of α-cyano-3-oxo-1-cyclohexen-1-acetamide in 125 parts by volume of dimethylformamide, in an atmosphere of nitrogen, is added dropwise, over a period of 10-15 minutes, 40 parts of dimethylformamide diethyl acetal. After the reaction mixture is stirred at room temperature for about 18 hours, 10 parts of water is added and the organic solvents are removed by distillation under reduced pressure. The residual oily product is extracted with dilute aqueous sodium hydroxide and the extract is washed several times with chloroform, then filtered to remove he small amount of insoluble material. Neutralization of the alkaline solution by the addition of dilute hydrochloric acid results in precipitation of the product, which is purified by recrystallization from aqueous acetone to afford 2,3,5,6,7,8-hexahydro-3,8-dioxo-4-isoquinolinecarboni=trile, melting above 290°. It is further characterized by ultraviolet absorption maxima at about 227, 232, 279 and 324 mμ with molecular extinction coefficients of 17,900, 16,000, 13,000 and 6,800, respectively, and by infrared absorption peaks, in potassium bromide, at about 2.87, 2.97, 4.48, 5.92, 6.03, 6.07, 6.23 and 6.45 μ and also by nuclear magnetic resonance peaks, in deutero=pyridine, at approximately 1.92, 2.58, 2.97, and 8.72 parts per million.

reactant | α-cyano-3-oxo-1-cyclohexen-1-acetamide | C(#N)C(C(=O)N)C1=CC(CCC1)=O | C9H10N2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethylformamide diethyl acetal | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | water | O | H2O
product | trile | COC1=CC=CC(=C1)C(=O)CC#N | C10H9NO2
